Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Sulfur
 
Attending: ___.
 
Chief Complaint:
"I'm not interested"

 
Major Surgical or Invasive Procedure:
None. 
 
History of Present Illness:
___ y/o M h/o schizoaffective d/o,
formerly followed by ___ outpt psych (terminated with Dr.
___ in ___, presenting BIB police after they 
were
called for him walking into a stranger's home. No other details
of his presentation are known and pt is unable to provide them.
He is found to be extremely guarded with severe thought disorder
(blocking, broadcasting) and likely AH as he is responding to
internal stimuli. He therefore is unwilling and unable to 
provide
proper history. He initially refused to give names of collateral
contacts but his father's phone number was found in ___ and he 
is
on the way to ED. Pt suggests there is nothing wrong with him 
and
responds "I'm not interested" to many questions. Acknowledged he
was feeling scared and that he had a headache, but these were to
my direct questioning and not spontaneously offered. He offers a
few full sentences (beyond "I'm not interested") and they are at
inappropriate times (i.e. when asked what hospital he was in).
Says, "I wasn't scared of the police" and later "They might have
been scared of me." Also said, "I like to ___ things." Other
interesting tidbits of information that he shared were, "I don't
want to be a victim," and "I was looking for someone else...
___  Unable to elaborate on any of these statments but did
said ___ was "not quite" a friend, and nodded when asked 
if
she was like a girlfriend. At one point, pt agreed to my
wondering if he felt like I was reading his mind, and said
"You're gifted."  Pt's seems to be looking for sig meaning in my
questions and often responds with "that's a stupid question" or
"These questions aren't challenging enough."  Is (barely) able 
to
acknowledge that his current thinking/communicating pattern
"isn't my style." At the ended of the interview his final
statement was, "I prefer 'two.' That's the answer."  

Parents reveal that they have been out of town for past 3 days 
at
a wedding and that pt has been cared for by his grandparents.
Report that he is typically medication non-compliant and that it
is a constant struggle to make him take his meds. He therefore
has been off meds for quite some time. They feel that he has 
been
deteriorating and are concerned about his presentation. They
would rather he be admitted now, as they fear they would not be
able to care for him at home and that he might "run off" again.
They are also intensely afraid of losing the patient's trust but
struggling with forcing him into treatment. (I.e. seeking
guardianship, filing for ___, etc.) They prefer he is 
admitted
to ___ or ___ and would rather take him home if he is
planned to be admitted elsewhere. They had just gotten home and
were ready to look for pt when I called them from the ED. They
say he typically wanders off and they find him in the ___. 

 
Past Medical History:
PSYCHIATRIC HISTORY:
- Dx: schizoaffective (originally diagnosed with bipolar d/i in
___ then later told schizoaffective)
- Hospitalizations: multiple in past > ___ yrs including at ___
in ___ and twice in ___ none in past ___ yrs per father
- SA/SIB: remote h/o walking on train tracks in ? SA ___
- Violence: ___
- Treaters: psychiatrist is Dr. ___, in ___ 
- ___ Trials: parents report pt is very sensitive to medications
and that very low doses typically help, say he has responded 
best
to 2.5mg Abilify, though often ___ c/o headache afterwards and
is med non-compliant unless his parents spend sig time pushing
him to take meds. 

PAST MEDICAL HISTORY: none per parents, say he often c/o
headaches. 

 
Social History:
Social History: B/R greater ___ area, has an older sister, 
who currently lives in ___. Parents are married and primary 
caretakers for
patient who lives with them and has been living with them for
years. Their lives have been greatly limited by inability to
travel far or for extended periods of time as no one can care 
for
pt well. Parents report he is a "good" and "smart" kid, saying 
he
has never caused trouble and did well in school. Graduated from
___, magna cum ___ with degree in computer programming. He
worked as a ___ until ___ years ago when he had 
to
stop ___ mental illness. In recent years pt has converted to
orthodox Jewish faith, which his parents say has been a source 
of
strength for him. (They are not orthodox.)  He currently lives 
in
___ with his parents and has been living with them x years

SUBSTANCE ABUSE HISTORY: denied by pt and parents

 
Family History:
Pt's mother's brother with h/o "schizophrenia" per his father 
(and ___, though pt's mother believes it is "more like 
obsessive compulsive."  No known family
h/o suicide. 

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS: T 98.1 BP: 119/85  HR: 83 resp: 16  O2 sat: 99%  height: 
___ weight:128.4lbs
 
MENTAL STATUS EXAM:
Appearance: ___ with middle length beard, with yarmulke in
hand, in hospital gown with jewish undergarments, socks, poor
hygiene, odorous. 
Behavior: sitting calmly, using hands for gesticulation, no
tremor, fasciculations or other abnormal movements noted. fair
eye-contact. 
Speech: reg rate, rhythm, volume, slight lilt in voice, pause
during sentence, then ramble and not complete thought. 
Mood: "not well" 
Affect: blunted, consistent, congruent
TC: paranoid toward women, ?AH, denies SI/HI. 
TP: disorganized, loose. 
I/J: poor
COGNITIVE:limited exam ___ severe thought disorder
SENSORIUM: alert
ORIENTATION: said month was ___ and year was ___
then clarified and said the month was ___ Unable to state 
the
year or the date. THought it was ___. 
ATTENTION: poor vs. not able to be tested (Asked pt to
say ___ forwards and he responded with ___ and on furhter
pressing said again, "These questions are not challenging 
enough"
and was unable to complete the task or subsequent tasks

 
PE:
General: Well-nourished, in no distress.
Heart: RRR. no m/c/r. 
Lungs: CTAB, no wheezes, crackles noted. 
Abdomen: soft, NT, ND. +BS. no hepatosplenomegaly noted. 
Ext: no c/c/e. 
Neuro: CN ___ intact. ___ strength bilaterally, 2+ patellar
reflexes. Unable to follow finger to nose testing. 

 
Pertinent Results:
___: CBC wnl, BMP wnl, UA wnl, Utox neg, Stox neg

 
Brief Hospital Course:
Legal: ___
Medical: The patient was seen by Nutrition during his hospital 
day due to complaints of poor eating habits and desire for 
weight gain. He was maintained a kosher diet with Ensure 
supplements tid. Labs of BMP, CBC, TSH, Vit B12, Folate, 
pre-Albumin were noted to be wnl.   

Psychiatric: Upon admission, the patient exhibited severe speech 
disorganization, loosening of associations, and 
circumfrentiality on interview. He was very perservative on 
religious and philosophical issues. He was noted by nursing 
staff to be responding to internal stimuli and talking aloud 
through the unit. Initially, due to his disorganization and poor 
boundaries with other patients, particularly females, on the 
unit, thus he was initially placed on five minute checks. On 
admission, he was started on low dose Abilify 2.5 mg po daily, 
as Abilify itself was noted to be effective in the past. On 
Hospital Day two he exhibited more signs of withdrawal, 
posturing with minimal speech. Thus, Abilify was increased to 5 
mg po daily and he was additionally started on Ativan .5 mg po 
bid that was subsequently increased to 1 mg po bid. The first 
several days taking medications, the patient was very 
philosophical and questioning of medications, but was agreeable 
and compliant with medications when his questions were answered. 
He eventually became more organized in his thought process to 
sign into the hospital and was agreeable to treatment. With the 
slow titration of his Abilify medication to 20 mg po over the 
course of his hospitalization, the patient slowly showed great 
improvement in his level of organization, focus, and lack of 
internal preoccupation. He initially noted somnolence with his 
medication during the day, so his Abilify was changed to the 
evening. Ativan was subsequently decreased to 1 mg po qhs and as 
needed 
        His family, outpatient psychiatrist, and Rabbi were 
involved with his care and confirmed his large improvement with 
medication treatment and issues with compliance in the past. The 
patient continued to struggle with the balance of religion and 
mental illness, but continued to be compliant with medications 
during his hospitalization, referencing an agreement he made 
with his Rabbi to work with his providers and medications for at 
least a three month trial. As he improved on the unit, he was 
more interactive on the unit with other patients and was placed 
on 15 minute checks with no incident. He began attending both 
activity and psychiatry groups, with particular fondness towards 
___ groups. He interacted in groups and his peers 
appropriately. On discharge, the patient was scheduled to follow 
with his outpatient psychiatrist, ___ day program. In 
addition, an application for ___ services was submitted. A 
partial program was encourgaed for additional strucutre, but he 
and his family declined this for the time being because they 
___ be spending half of the week out of town at a ___ house 
for the summer. 
         Over the course of his admission much psychoeducation 
was given to the patient and his family over the concerning 
degree of his psychotic symptoms and his need for therapeutic 
medication trials through time. Discussion was had of the use of 
higher doses of medications, addition of mood stabilizers and 
even potentially injectable medications in the future if 
medication compliacne remained an issue. His parents are also 
aware of the option to apply for guardianship if the paitent 
continues to do poorly. However, this was not pursued at this 
time because the patient had never been compliant with a dose 
higer than 5mg of abilify, he had not had the benefit of DMH 
services, and has not been involved in mental health recovery 
programs outside of the hospital. He and his family understand 
the importance of having the patient return to the emergency 
room or the hospital if he decompensates outside of the 
hospital, stops his medications, or develops suicididal 
thougths. After he leaves the hospital he ___ be returning to 
live with his parents and he ___ continue to be involved in his 
___ community for extra support and strucutre. At the time of 
discharge, the patient no longer presented as an acute risk to 
himself or others, he was eating well, maintaining his ADLs 
well, demonstrated appropriate boundaries with other patients 
and staff, and appeared to be committed to taking his medication 
and following up as an outpatient. Prior authorization was 
obtained through medicare D for the next year for the use of 
abilify.  
 
    
 
Medications on Admission:
had been non-compliant with abilify 2.5mg daily 
 
Discharge Medications:
1. aripiprazole 20 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*2*
2. lorazepam 1 mg Tablet Sig: One (1) Tablet PO BID : PRN as 
needed for insomnia : Take 1 tablet as needed, up to twice a 
day, for insomnia or anxiety.
Disp:*45 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
I. Schizoaffective disorder, bipolar type 
II. Defer
III. healthy

 
Discharge Condition:
-Ambulating independently. Denies SI/HI. 
- Vitals: T 97.5, BP 120/78, P91, R16
Mental Status Exam: 
-Appearance: ___ orthodox Jewish male with hat, yamukka under
hat, sweatshirt, and causal pants, Jewish traditional
undergarments, tennis shoes
-Behavior: sitting on chair, leaning forward and hands on legs,
more relaxed in chair, twitching foot, yawning this morning 
during interview, good eye-contact, cooperative,
smiled and laughed at appropriate times
-Speech: regular rhythm, volume, tone-- 
-Mood: 'ok' 
-Affect: euthymic, consistent, congruent
-TC: denies SI/HI, some paranoid and grandiose ideas
-TP: sometimes linear, but disorganized/off topic at times,
expressing somatic issues at times, but mainly focused on
religious and ___ ideas and themes 
-I/J: improving

 
Discharge Instructions:
-Please take your medications as prescribed. Continuing your 
medications ___ help prevent relapse and rehospitalization. 
-Please follow with your outpatient providers as scheduled. 
-Please refrain from drugs/alcohol. 
.
-Pick up medications at Care Plus Pharmacy: Your copay is $3
___
___

*It was a pleasure to work with you and we wish you the best of 
health.*
 
Followup Instructions:
___